** Generated for: hspiceD
** Generated on: Apr  7 20:08:31 2025
** Design library name: Nandini
** Design cell name: DFF
** Design view name: schematic


** Library name: Nandini
** Cell name: DFF
** View name: schematic
xm9 net99 clk net97 net97 nch_svt_mac l=16e-9 nfin=2 w=58e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm30 net95 net93 net96 net96 nch_svt_mac l=16e-9 nfin=4 w=154e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm6 net99 net94 vss vss nch_svt_mac l=16e-9 nfin=3 w=106e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm25 net95 q vss vss nch_svt_mac l=16e-9 nfin=3 w=106e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm11 net94 net97 vss vss nch_svt_mac l=16e-9 nfin=3 w=106e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm21 q net96 vss vss nch_svt_mac l=16e-9 nfin=3 w=106e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm10 net98 net93 net97 net97 nch_svt_mac l=16e-9 nfin=4 w=154e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm29 net100 clk net96 net96 nch_svt_mac l=16e-9 nfin=4 w=154e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm7 net98 d vss vss nch_svt_mac l=16e-9 nfin=3 w=106e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm28 net100 net94 vss vss nch_svt_mac l=16e-9 nfin=3 w=106e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm8 net93 clk vss vss nch_svt_mac l=16e-9 nfin=4 w=154e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm2 net99 net93 net97 net97 pch_svt_mac l=16e-9 nfin=4 w=154e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm27 net95 clk net96 net96 pch_svt_mac l=16e-9 nfin=4 w=154e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm0 net99 net94 vdd vdd pch_svt_mac l=16e-9 nfin=3 w=106e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm23 net95 q vdd vdd pch_svt_mac l=16e-9 nfin=3 w=106e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm22 q net96 vdd vdd pch_svt_mac l=16e-9 nfin=3 w=106e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm4 net94 net97 vdd vdd pch_svt_mac l=16e-9 nfin=3 w=106e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm24 net100 net93 net96 net96 pch_svt_mac l=16e-9 nfin=4 w=154e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm3 net98 clk net97 net97 pch_svt_mac l=16e-9 nfin=4 w=154e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm1 net98 d vdd vdd pch_svt_mac l=16e-9 nfin=3 w=106e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm26 net100 net94 vdd vdd pch_svt_mac l=16e-9 nfin=3 w=106e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
xm5 net93 clk vdd vdd pch_svt_mac l=16e-9 nfin=4 w=154e-9 multi=1 nf=1 sa=90e-9 sb=90e-9
.END


